US07598391B2
1,1-Dicyclohexyl-3-[5-(4,5-dihydro-1H-imidazol-2-ylmethylsulfanyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (H) using 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and 2-chloromethyl-2-imidazoline.

reactant | 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)C1CCCCC1 | C17H24N4OS2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | 2-chloromethyl-2-imidazoline | ClCC=1NCCN1 | C4H7ClN2
product | 1,1-Dicyclohexyl-3-[5-(4,5-dihydro-1H-imidazol-2-ylmethylsulfanyl)-thiazol-2-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SCC=1NCCN1)C1CCCCC1 | C20H31N5OS2
